US04014905
2.08 g (0.01 M) of 6,7-epoxy-2,6,10,10-tetramethyl-1-oxa-spiro[4.5]dec-3-ene -- see method B, letter i -- were reduced by means of 570 mg (0.015 M) of LiAlH4 in accordance with the above process. After the usual treatments of washing, drying and evaporation, the fractional distillation of the obtained residue gave 1.9 g (ca. 90 %) of 2,6,10,10-tetramethyl-1-oxa-spiro[4.5]dec-3-ene-6-ol, b.p. 80°-90° /0.1 Torr.

reactant | 6,7-epoxy-2,6,10,10-tetramethyl-1-oxa-spiro[4.5]dec-3-ene | 0.01 M, 2.08 g | O1C2(C3(C=CC(O3)C)C(CCC21)(C)C)C | C13H20O2
reactant | LiAlH4 | 0.015 M, 570 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2,6,10,10-tetramethyl-1-oxa-spiro[4.5]dec-3-ene-6-ol | 1.9 g, ca. 90 % | CC1OC2(C=C1)C(CCCC2(C)C)(O)C | C13H22O2
